US04297357
To 3.0 g of 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide hydrochloride were added 20 ml of 5% aqueous sodium carbonate solution and 125 ml of chloroform and then the mixture was stirred at room temperature until the hydrochloride completely dissolved. The chloroform layer was separated, washed with water, dried and the solvent was concentrated to dryness under reduced pressure. The residue was crystallized from a mixture of methanol and diethyl ether to obtain 2.3 g of 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide having a melting point of 133° to 135° C.

reactant | 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide hydrochloride | 3.0 g | Cl.C(N)(=O)C=1C=C(C=CC1)NCC(=O)NCCC1=CC(=C(C=C1)OC)OC
reactant | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide | 2.3 g | C(N)(=O)C=1C=C(C=CC1)NCC(=O)NCCC1=CC(=C(C=C1)OC)OC | C19H23N3O4
